US05504085
A. 3-Chloro-2-hydrazino-6-nitroquinoxaline
A mixture of 6.1 g (25 mmol) of 2,3-dichloro-6-nitroquinoxaline and 2.75 g (55 mmol) of hydrazine hydrate in 150 ml of ethanol was stirred at room temperature over night. The precipitate was isolated and washed with water, cold ethanol and ether to give 5.67 g (95%) of crude product.

reactant | 2,3-dichloro-6-nitroquinoxaline | 25 mmol, 6.1 g | ClC1=NC2=CC=C(C=C2N=C1Cl)[N+](=O)[O-] | C8H3Cl2N3O2
reactant | hydrazine hydrate | 55 mmol, 2.75 g | O.NN
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 3-Chloro-2-hydrazino-6-nitroquinoxaline | 5.67 g, 95% | ClC=1C(=NC2=CC=C(C=C2N1)[N+](=O)[O-])NN | C8H6ClN5O2
